US04891372
3-[2-(4-Amino-3-methylphenoxy)ethyl]-7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine
3-[2-(4-Amino-3-methylphenoxy)ethyl]-7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine dihydrochloride hemihydrate (0.62 g) was dissolved in saturated aqueous sodium carbonate (20 ml) and extracted three times with ethyl acetate (30 ml). The combined organic extracts were dried (Na2SO4) and evaporated in vacuo to give the title compound as an oil, yield 0.5 g, which was used directly without further purification.

reactant | 3-[2-(4-Amino-3-methylphenoxy)ethyl]-7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine dihydrochloride hemihydrate | 0.62 g | O.Cl.Cl.NC1=C(C=C(OCCN2CCC3=C(CC2)C=CC(=C3)[N+](=O)[O-])C=C1)C.NC1=C(C=C(OCCN3CCC2=C(CC3)C=CC(=C2)[N+](=O)[O-])C=C1)C.Cl.Cl
solvent | sodium carbonate | 20 ml | C([O-])([O-])=O.[Na+].[Na+]
product | 3-[2-(4-Amino-3-methylphenoxy)ethyl]-7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine | NC1=C(C=C(OCCN2CCC3=C(CC2)C=CC(=C3)[N+](=O)[O-])C=C1)C | C19H23N3O3
